US04882330
1-(3-Trifluoromethylphenoxy)-4-[4-(2-pyridinyl)-1-piperazinyl]-2-butanol
This compound was prepared according to the procedure used to synthesize the compound of Example 6. A mixture of 3.3 g (0.02 mole) of 1-(2-pyridyl)piperazine, 5.4 g (0.02 mole) of 4-chloro-1-(3-trifluoromethylphenoxy)-2-butanol, 6.4 g (0.06 mole) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 100 ml of 1-butanol gave 2.8 g (35%) of the title compound as an off-white solid, m.p. 81°-81.5° C. Recrystallizing solvent used was isopropyl ether.

reactant | 1-(2-pyridyl)piperazine | 0.02 mole, 3.3 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | 4-chloro-1-(3-trifluoromethylphenoxy)-2-butanol | 0.02 mole, 5.4 g | ClCCC(COC1=CC(=CC=C1)C(F)(F)F)O | C11H12ClF3O2
reactant | sodium carbonate | 0.06 mole, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-(3-Trifluoromethylphenoxy)-4-[4-(2-pyridinyl)-1-piperazinyl]-2-butanol | 2.8 g, 35% | FC(C=1C=C(OCC(CCN2CCN(CC2)C2=NC=CC=C2)O)C=CC1)(F)F | C20H24F3N3O2
